US07183276B2
To a mixture of 2-(ethylsulfanyl)ethylamine (0.94 g) and tetrahydrofuran (10 mL) was added dropwise di-tert-butyl dicarbonate (2.14 g) with stirring under ice-cooling. The mixture was stirred at room temperature for 30 min and the reaction mixture was concentrated, diluted with ethyl acetate and washed with water. The organic layer was dried over anhydrous magnesium sulfate and concentrated and the residue was subjected to silica gel column chromatography. tert-Butyl 2-(ethylsulfanyl)ethylcarbamate was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:4, volume ratio). (1.83 g, yield 100%).

reactant | 2-(ethylsulfanyl)ethylamine | 0.94 g | C(C)SCCN | C4H11NS
reactant | di-tert-butyl dicarbonate | 2.14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-Butyl 2-(ethylsulfanyl)ethylcarbamate | yield 100% | C(C)SCCNC(OC(C)(C)C)=O | C9H19NO2S
